US07012089B2
8-Chloro-2,3,4,5,9,10,11,11a-octahydro-1H,8bH-cyclopenta[b][1,4]diazocino[7,8,1-hi]indole
To a solution of 8-chloro-2,3,4,5,10,11-hexahydro-1H,9H-cyclopenta[b][1,4]diazocino[7,8,1-hi]indole (0.60 g, 2.30 mmole) in acetic acid (100 mL) was added sodium cyanoborohydride (0.60 g, 9.07 mmole) and the reaction mixture was stirred at room temperature overnight. The solvent was removed in vacuo and the residue was diluted with methylene chloride (200 mL) and washed with aqueous sodium hydroxide (1N, 150 mL), saturated sodium chloride (150 mL), dried (sodium sulfate) and concentrated. Purification by flash column chromatography (silica gel, 1.5% to 5% methanol in methylene chloride) provided 0.30 g of the title compound as a white solid. 60 mg of this compound was further treated with one equivalent of fumaric acid in ethanol to form a fumarate salt, mp 169-170° C. MS (ES) m/z 263.1 ([M+H]+), MS (ES) m/z 304.1 ([M+ACN+H]+).

reactant | 8-chloro-2,3,4,5,10,11-hexahydro-1H,9H-cyclopenta[b][1,4]diazocino[7,8,1-hi]indole | 2.30 mmole, 0.60 g | ClC1=C2C3=C(N4C2=C(C=C1)CCNCC4)CCC3 | C15H17ClN2
reactant | sodium cyanoborohydride | 9.07 mmole, 0.60 g | C(#N)[BH3-].[Na+]
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 8-Chloro-2,3,4,5,9,10,11,11a-octahydro-1H,8bH-cyclopenta[b][1,4]diazocino[7,8,1-hi]indole | 0.30 g | ClC1=C2C3C(N4C2=C(C=C1)CCNCC4)CCC3 | C15H19ClN2
